US06451740B2
5.4 g of N-[2-fluoro-5-(2-methoxyphenoxy)-4-nitrophenyl]acetamide was dissolved in 50 mol of methylene chloride, then, 4.7 g of boron tribromide was added under ice cooling. The mixture was stirred for 2 hours under the same temperature, conc. hydrochloric acid was added to the solution and the resulted mixture was poured into water, extracted with ethyl acetate, the organic layer was washed with water, dried over magnesium sulfate, concentrated, and the resulted crystal was washed with t-butyl methyl ether to obtain 3.2 g of N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide.

reactant | N-[2-fluoro-5-(2-methoxyphenoxy)-4-nitrophenyl]acetamide | 5.4 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=C(C=CC=C1)OC)NC(C)=O | C15H13FN2O5
reactant | methylene chloride | 50 mol | C(Cl)Cl | CH2Cl2
reactant | boron tribromide | 4.7 g | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-[2-fluoro-5-(2-hydroxyphenoxy)-4-nitrophenyl]acetamide | 3.2 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])OC1=C(C=CC=C1)O)NC(C)=O | C14H11FN2O5
